US09255104B2
Ethyl 2-((3aR,4S,6R,6aS)-6-(benzyloxycarbonyl)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)acetate
Benzyl (3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ylcarbamate (12.29 g, 39.99 mmol, 1.00 equiv.) was added to a solution of sodium hydride (70%) (1.44 g, 60.00 mmol, 1.05 equiv.) in dimethylformamide (200 mL). The solution was stirred at about −30° C. for about 30 minutes, and then ethyl 2-bromoacetate (7.68 g, 45.99 mmol, 1.20 equiv) was added. The resulting solution was stirred at ambient temperature for about 5.5 hours, and then water was added (500 mL). Following standard extractive workup with ethyl acetate (3×200 mL), the resulting residue was purified by silica gel column chromatography (ethyl acetate: petroleum ether (1:10)) to afford the title product as a colorless solid (0.9 g; yield=69%). 1H NMR (300 MHz, CD3OD) δ: 7.30-7.35 (m, 5H), 5.07 (s, 2H), 4.60 (d, J=5.7 Hz, 1H), 4.51 (d, J=5.7 Hz, 1H), 4.12-4.29 (q, J=16.5 Hz, 2H), 4.10-4.22 (q, J=7.2 Hz, 2H), 4.00 (d, J=5.7 Hz, 1H), 3.92 (J=4.3 Hz, 1H), 2.17-2.19 (m, 1H), 1.84 (d, J=14.7 Hz, 1H), 1.38 (s, 3H), 1.26 (s, 3H), 1.11-1.22 (t, J=7.2 Hz, 3H).

reactant | Benzyl (3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ylcarbamate | 39.99 mmol, 12.29 g, 1.00 equiv. | O[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OCC2=CC=CC=C2)=O | C16H21NO5
reactant | sodium hydride | 60.00 mmol, 1.44 g, 1.05 equiv. | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 45.99 mmol, 7.68 g, 1.20 equiv | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-((3aR,4S,6R,6aS)-6-(benzyloxycarbonyl)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)acetate | 0.9 g, yield=69% | C(C1=CC=CC=C1)OC(=O)[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)OCC(=O)OCC | C20H26O7
